US04620870
2-t-Butyl-3-hydroxy-7-chloro-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide
To a solution of 49.5 g of N-t-butyl-2-chlorobenzenesulfonamide in 875 mls of dry THF was added 262 ml of a 1.6M hexane solution of n-butyl lithium at -20° to -5° C. under an inert atmosphere. The mixture was stirred at 0° C. for 1 hour, room temperature for 2 hours, recooled to -78° C. and contacted with 38 mls of dry dimethylformamide. The mixture was allowed to warm to room temperature overnight, poured into water, acidified to a ph of ~3 and ether extracted. The extract was washed with water and brine, dried over MgSO4 and concentrated to give a yellow oil. The oil was dissolved in 50% ether in hexane solution and allowed to stand, giving, after filtration, 38 g of the title compound as colorless crystals, m.p. 139°-141° C.

reactant | N-t-butyl-2-chlorobenzenesulfonamide | 49.5 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)Cl | C10H14ClNO2S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | dimethylformamide | 38 mls | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | THF | 875 mls | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 1.6M | CCCCCC | C6H14
product | 2-t-Butyl-3-hydroxy-7-chloro-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide | C(C)(C)(C)N1S(C2=C(C1O)C=CC=C2Cl)(=O)=O | C11H14ClNO3S
